* D:\Github\EE463-TERM-PROJECT\Simulation Models\PWM_Generator_555.asc
XU1 0 N001 Vout vdd N003 N001 N002 vdd NE555
V1 vdd 0 12
R1 vdd N002 110k
R2 N002 N001 60k
D1 N002 N001 D
C1 N003 0 100n
C2 N001 0 10n
.model D D
.lib C:\Users\samet\OneDrive\Belgeler\LTspiceXVII\lib\cmp\standard.dio
.tran 0.01
.lib NE555.sub
.backanno
.end
